US06897309B2
Gepirone (4,4-dimethyl-1-[4-[4-(2-pyrimidinyl)-1-piperazinyl]butyl]-2,6-piperidinedione) (10.0 g, 27.8 mmol) was charged to a 500 mL flask equipped with a mechanical stirrer and a React-IR probe under inert gas. Tetrahydrofuran (250 mL, 25 mL/g) was charged and the mixture agitated at ambient temperature until homogeneous. Triethyl phosphite (28.9 g, 174 mmol, 29.8 mL, 6.25 eq) was added and the mixture was cooled to −65 to −80° C. The mixture was agitated at this temperature for at least 10 minutes to allow the React-IR signal to stabilize. 1.0 M Sodium bis(trimethylsilyl)amide in THF (27.8 mL, 27.8 mmol, 1.00 eq) was charged to the mixture at such a rate so as to maintain the temperature less than −60° C. Small amounts of sodium bis(trimethylsilyl)amide were charged to the mixture until the IR signal for buspirone reached a minimum indicating complete deprotonation of gepirone. Additional gepirone in THF (25 mL/g) was then charged to the reaction mixture in small increments until the IR signal indicated a 3.24% excess of gepirone. Air was sparged into the reaction mixture, controlling the initial rate of sparging so as to maintain the temperature of the reaction mixture less than −60° C. The sparging was continued until the reaction was complete as indicated by HPLC. Methyl tert-butyl ether (40.0 mL) was added followed by 1M hydrochloric acid (45.0 mL) and the solution was warmed to ambient temperature. The pH (9.48 at 20.6° C.) was adjusted to between 6.5 and 6.9 using hydrochloric acid and Na3PO4 (pH=6.95 at 22.7° C.). The phases were separated and the organic phase was washed twice with 25 wt % brine (40.0 mL). The solvent of the rich organic layer was then replaced by isopropyl alcohol and the solution was cooled to ambient temperature to crystallize the reaction product. The crystalline slurry was then filtered and the wet cake was washed twice with isopropyl alcohol (15.0 mL) and dried to provide 3-hydroxygepirone (9.32 g, 89%), mp 128° C.

reactant | Gepirone | 27.8 mmol, 10.0 g | CC1(CC(=O)N(C(=O)C1)CCCCN2CCN(CC2)C=3N=CC=CN3)C | C19H29N5O2
reactant | Triethyl phosphite | 174 mmol, 29.8 mL, 28.9 g, 6.25 eq | P(OCC)(OCC)OCC | C6H15O3P
reactant | Sodium bis(trimethylsilyl)amide | 1.0 M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | buspirone | C=1C=NC(=NC1)N2CCN(CC2)CCCCN3C(=O)CC4(CCCC4)CC3=O | C21H31N5O2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 27.8 mmol, 27.8 mL, 1.00 eq | C1CCOC1 | C4H8O
solvent | Tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 3-hydroxygepirone | 9.32 g, 89% | CC1(CC(=O)N(C(=O)C1O)CCCCN2CCN(CC2)C3=NC=CC=N3)C | C19H29N5O3
